US04668688
Preparation of 1-[bis(hydroxymethyl)-methyl]-2-benzyl-6,7-dimethoxy-3,4-dihydroisoquinolinium bromide
0.015 mole (4 g) of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-3,4-dihydroisoquinoline is dissolved in 40 ml of absolute ethanol. 0.02 mole (3.4 g) of benzyl bromide is added to the solution and the reaction mixture is refluxed for 4 hours, under stirring. After cooling the crystals separated out are filtered off and recrystallized from ethanol. The aimed compound is obtained with a melting point of 178° to 179° C.

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-3,4-dihydroisoquinoline | 0.015 mole, 4 g | OCC(C1=NCCC2=CC(=C(C=C12)OC)OC)CO | C14H19NO4
reactant | benzyl bromide | 0.02 mole, 3.4 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-[bis(hydroxymethyl)-methyl]-2-benzyl-6,7-dimethoxy-3,4-dihydroisoquinolinium bromide | Yield: 59% | [Br-].OCC(C1=[N+](CCC2=CC(=C(C=C12)OC)OC)CC1=CC=CC=C1)CO | InChI=1S/C21H26NO4.BrH/c1-25-19-10-16-8-9-22(12-15-6-4-3-5-7-15)21(17(13-23)14-24)18(16)11-20(19)26-2;/h3-7,10-11,17,23-24H,8-9,12-14H2,1-2H3;1H/q+1;/p-1
